US06548533B2
1-Acetyl-2-(4-nitro-phenyl)-pyrrolidine-3-carboxylic Acid Ethyl Ester
A stirred solution of (4-nitro-benzylidene)-trimethylsilanylmethyl-amine (3.2 g) in tetrahydrofuran (120 mL), at 40° C., was treated with a solution of acetyl chloride (1 mL) and ethyl acrylate (1.6 mL) in tetrahydrofuran (60 mL). After stirring at 40° C. for 20 hours the reaction mixture was evaporated. The residual oil was treated with ethyl acetate(300 mL) and water (100 mL) and the mixture was then stirred 1,5 for 20 hours. The organic phase was washed twice with water (100 mL), then dried and then concentrated under reduced pressure (2.7 kPa). The residue was subjected to flash chromatography on silica (700, 20-45 μm, 0.6 bar) eluting with a mixture of cyclohexane and ethyl acetate (90:10, v/v) to give the title compound (3.04 g). RF=37/162, thin layer chromatography plate ref. #05719, Merck KGaA, 64271 Darmstatd, Germany.

reactant | (4-nitro-benzylidene)-trimethylsilanylmethyl-amine | 3.2 g | [N+](=O)([O-])C1=CC=C(C=NC[Si](C)(C)C)C=C1 | C11H16N2O2Si
reactant | acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acrylate | 1.6 mL | C(C=C)(=O)OCC | C5H8O2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-Acetyl-2-(4-nitro-phenyl)-pyrrolidine-3-carboxylic Acid Ethyl Ester | 3.04 g | C(C)OC(=O)C1C(N(CC1)C(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O5
